US07132425B2
A mixture of 2-amino-5-bromopyrazine (1.00 g, 5.746 mmol), tetrakis(triphenylphosphine)palladium(0) (132 mg, 0.114 mmol), allyltri-n-butyltin (2.2 mL, 7.096 mmol), lithium chloride (875.0 mg, 20.64 mmol) and N,N-diisopropylethylamine (2.6 mL, 14.93 mmol) in N,N-dimethylformamide (29 mL) was stirred at 120° C. for 45 min. The reaction mixture was cooled to 25° C. and then treated with a saturated aqueous potassium fluoride solution (20 mL). The mixture was stirred for 3 h, treated with a solution of water and a saturated aqueous sodium chloride solution, and extracted with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40L, Silica, 1/1 hexanes/ethyl acetate) afforded 5-allyl-pyrazin-2-ylamine (378.2 mg, 48.7%) as a yellow solid: LRMS for C7H9N3 (M+H)+ at m/z=136.

reactant | 2-amino-5-bromopyrazine | 5.746 mmol, 1.00 g | NC1=NC=C(N=C1)Br | C4H4BrN3
reactant | allyltri-n-butyltin | 7.096 mmol, 2.2 mL | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | lithium chloride | 20.64 mmol, 875.0 mg | [Cl-].[Li+]
reactant | N,N-diisopropylethylamine | 14.93 mmol, 2.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | potassium fluoride | 20 mL | [F-].[K+]
solvent | N,N-dimethylformamide | 29 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.114 mmol, 132 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | 5-allyl-pyrazin-2-ylamine | 378.2 mg, 48.7% | C(C=C)C=1N=CC(=NC1)N | C7H9N3
